Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Chocolate Flavor
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
Laparoscopic cholecystectomy with cholangiogram

 
History of Present Illness:
This ___ gentleman has now presented with 4 episodes of 
recurrent acute pancreatitis in a relapsing form. His most 
recent attack was last week and he was treated here for the 
first time and he recovered from this. He was already set up for 
laparoscopic cholecystectomy prior to that attack. We let that 
cool-down and he returns now for a definitive cholecystectomy to 
help with diagnosis and possible therapeutics for his relapsing 
pancreatitis.

 
Past Medical History:
PMHx:  pancreatitis, DM2, R eye blindness
.
PSHx: R eye surgery

 
Social History:
___
Family History:
Relative with ___ polyp

 
Physical Exam:
On Admission:
AVSS/afebrile. 
GEN: A+Ox3. In NAD.
HEENT: Sclerae anicteric. O-P clear.
COR: RRR
LUNGS: CTAB
ABDOMEN: Minimally tender to palpation (R)UQ. Soft/ND.
EXTREM: No c/c/e.

 
Pertinent Results:
___ 10:30PM   ___ 10:30PM   LIPASE-4460*
___ 12:42PM   ___ PTT-28.2 ___
___ 07:25AM BLOOD WBC-8.9# RBC-4.31* Hgb-12.4* Hct-34.5* 
MCV-80* MCH-28.7 MCHC-35.8* RDW-14.9 Plt ___
___ 06:45AM BLOOD Glucose-127* UreaN-11 Creat-0.9 Na-136 
K-3.8 Cl-99 HCO3-26 AnGap-15
___ 10:30PM BLOOD ___ 10:30PM BLOOD Lipase-___*
___ 06:25AM BLOOD ALT-169* AST-30 AlkPhos-108 Amylase-80 
TotBili-1.0
___ 06:25AM BLOOD Lipase-68*
.
___ Pathology SPECIMEN SUBMITTED: GALLBLADDER:
DIAGNOSIS:  
Gallbladder, cholecystectomy: 
Chronic cholecystitis.
Clinical: Cholelithiasis.
Gross: 

The specimen is received fresh in one part in a container 
labeled ___, the medical record number and 
"gallbladder". It consists of previously opened tan-pink 
gallbladder measuring 10.5 x 3.5 x 1.3 cm. The cystic duct 
margin is identified and is clipped closed. No cystic duct lymph 
node is grossly identified. The specimen has been previously 
opened along the fundus to reveal velvety red mucosa. No stones 
are grossly identified. The gallbladder wall measures up to 0.3 
cm in greatest thickness. The specimen is represented as 
follows: A = cystic duct margin and wall, B = wall.
.

 
Brief Hospital Course:
Mr. ___ was admitted to the hospital and taken to the 
Operating Room where he underwent laparoscopic cholecystectomy 
with cholangiogram.  He tolerated the procedure well and 
returned to the PACU in stable condition. After full recovery 
from anesthesia he complained on nausea and ___ abdominal pain 
and was therefore hospitalized overnight.

Pain continued to be an issue and STAT amylase and lipase were 
___ and ___ respectively.  He was maintained with IV fluids 
and kept NPO.  It seemed that the intra-operative cholangiogram 
induced acute pancreatitis.

His amylase and lipase dropped dramatically over the next ___ 
hours and he was gradually able to tolerate liquids and then 
advanced to diabetic, low fat regular diet.  His pain was better 
controlled, and he was up and walking without difficulty.

Cholangiogram identified an anatomic abnormality with ductal 
drainage in the pancreas and ERCP was indicated. However, due to 
his pancreatic flare up while hospitalized, the ERCP will be 
performed on an out patient basis.

At the time of discharge on ___, the patient was doing well, 
afebrile with stable vital signs.  The patient was tolerating a 
diabetic, low fat regular diet, ambulating, voiding without 
assistance, and pain was well controlled.  The patient was 
discharge home without services. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.
 
Medications on Admission:
1. GlyBURIDE 2.5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 

2. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
3. Acyclovir 5 % Ointment Sig: One (1) Appl Topical ASDIR 
4. Percocet ___ mg Tablet Sig: One (1) Tablet PO every four(4) 
hours as needed for pain.
5. Levoquin 500 mg PO daily for UTI started ___

 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
2. Glyburide 2.5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.  
4. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every ___ hours as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
5. Senna 8.6 mg Tablet Sig: One (1) Tablet PO twice a day as 
needed for constipation: Over-the-counter.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Gallstone pancreatitis.
2. Possible choledochocele

 
Discharge Condition:
Stable

 
Discharge Instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:

*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.

*Avoid swimming and baths until your follow-up appointment.

*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.

*If you have staples, they will be removed at your follow-up 
appointment.

*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.

 
Followup Instructions:
___